US04052383
1-Benzhydryl-2-(α-methylaminobenzyl)azetidine
To a stirred solution of 2.50 g of 1-benzhydryl-2-(α-aminobenzyl)azetidine in 25 ml. of N,N-dimethylformamide, add 365 mg. of a 55% dispension of sodium hydride. Stir the mixture under a nitrogen atmosphere and when frothing subsides, warm and maintain the stirred mixture at 40° for twenty minutes. Cool the mixture to -25° C and add 1.20 g. of methyl iodide. Remove the reaction mixture from the cooling bath and allow it to warm to room temperature. After ca. 15 minutes at room temperature, pour the contents of the reaction flask into a stirred mixture of 100 ml. of water and 25 ml. of ether. Separate the layers and reextract the aqueous phase with ether. Combine all ether extracts, wash successively with water and brine, dry over anhydrous sodium sulfate, and strip off solvent in vacuo. Crystallize the residual solid from ether to obtain the analytically pure title compound containing 1/4 mole of water-of-crystallization and having m.p. 111°-113°.

reactant | 1-benzhydryl-2-(α-aminobenzyl)azetidine | 2.50 g | C(C1=CC=CC=C1)(C1=CC=CC=C1)N1C(CC1)C(C1=CC=CC=C1)N | C23H24N2
reactant | sodium hydride | [H-].[Na+]
reactant | methyl iodide | CI | CH3I
solvent | N,N-dimethylformamide | CN(C=O)C | C3H7NO
product | 1-Benzhydryl-2-(α-methylaminobenzyl)azetidine | C(C1=CC=CC=C1)(C1=CC=CC=C1)N1C(CC1)C(C1=CC=CC=C1)NC | C24H26N2
